US04147864
1 equivalent of ozone (diluted with oxygen) is passed into a solution, cooled to -70° C., of 681 mg (1.0 mM) of 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester in 30 ml of ethyl acetate. The reaction solution is allowed to warm up, concentrated to 10 ml in vacuo, mixed with 1.0 ml of dimethyl sulphide and stirred for 15 hours at room temperature. Solvent and excess reagent are removed in vacuo and the residue is chromatographed on 30 g of acid-washed silica gel, using toluene/ethyl acetate, 4:1 (15 ml fractions). 2-[4-(Benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin- 1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester is obtained as a solid amorphous substance. [α]D = 130° ± 1° (CHCl3 ; c= 0.8) IR spectrum (CH2Cl2): 2.95, 5.60, 5.92, 6.04 and 8.10 μ.

reactant | ozone | 1 equivalent | O=[O+][O-] | O3
reactant | 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester | 1.0 mM, 681 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(C)=C)N1C(C(C1SSC=1SC2=C(N1)C=CC=C2)NC(COC2=CC=CC=C2)=O)=O)=O | C36H31N3O5S3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-[4-(Benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin- 1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SSC=1SC2=C(N1)C=CC=C2)NC(COC2=CC=CC=C2)=O)=O)=O | C35H29N3O6S3
